US07323460B2
Step 3: 8-Hydroxy-5-(6-methyl-1,1-dioxido-1,2,6-thiadiazinan-2-yl)-1,6-naphthyridine-7-carboxylic acid
Sodium hydroxide (3.85 mL, 3.85 mmol, 1N solution) was added to a suspension of methyl 8-hydroxy-5-(6-methyl-1,1-dioxido-1,2,6-thiadiazinan-2-yl)-1,6-naphthyridine-7-carboxylate (452 mg, 1.28 mmol) in a 2:1 solution of dioxane/water (10 mL) and the resulting mixture was heated overnight at 55° C. overnight. The opaque solution was acidified to a pH=7 using 1N HCl solution. The reaction was cooled and the solids that had precipitated out of solution were collected by vacuum filtration to give the desired product as an off-white solid.

reactant | Sodium hydroxide | 3.85 mmol, 1N, 3.85 mL | [OH-].[Na+]
reactant | methyl 8-hydroxy-5-(6-methyl-1,1-dioxido-1,2,6-thiadiazinan-2-yl)-1,6-naphthyridine-7-carboxylate | 1.28 mmol, 452 mg | OC=1C(=NC(=C2C=CC=NC12)N1S(N(CCC1)C)(=O)=O)C(=O)OC | C14H16N4O5S
reactant | HCl | 1N | Cl | ClH
solvent | dioxane water | 10 mL | O1CCOCC1.O
product | 8-Hydroxy-5-(6-methyl-1,1-dioxido-1,2,6-thiadiazinan-2-yl)-1,6-naphthyridine-7-carboxylic acid | OC=1C(=NC(=C2C=CC=NC12)N1S(N(CCC1)C)(=O)=O)C(=O)O | C13H14N4O5S
